US09290454B2
N,N′-Carbonyldiimidazole (747 mg, 4.61 mmol, 1.50 equiv.) was added to a stirred mixture of ethyl hydrogen malonate (0.543 mL, 4.61 mmol, 1.50 equiv.) in THF (15 mL) and the mixture was stirred at room temperature. After 15 min, Hunig's base (1.072 mL, 6.14 mmol, 2.00 equiv.) was added followed by dropwise addition of 6-bromoisochroman-1,3-dione (740 mg, 3.07 mmol) in THF (10 mL). Upon completion, the reaction was diluted with 0.5 N HCl (10 mL), extracted with EtOAc (2×20 mL), dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with 0-15% EtOAc/hexanes to give 683 mg of ethyl 2-(6-bromo-1-oxo-1H-isochromen-3-yl)acetate as a white solid.

reactant | ethyl hydrogen malonate | 4.61 mmol, 0.543 mL, 1.50 equiv. | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | Hunig's base | 6.14 mmol, 1.072 mL, 2.00 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-bromoisochroman-1,3-dione | 3.07 mmol, 740 mg | BrC=1C=C2CC(OC(C2=CC1)=O)=O | C9H5BrO3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | HCl | 0.5 N, 10 mL | Cl | ClH
product | ethyl 2-(6-bromo-1-oxo-1H-isochromen-3-yl)acetate | 683 mg | BrC=1C=C2C=C(OC(C2=CC1)=O)CC(=O)OCC | C13H11BrO4
